US07723330B2
Step B: Preparation of benzyl 1-(4-fluorophenyl)-2-oxoazepane-3-carboxylate:
A solution of 1-(4-fluorophenyl)azepan-2-one (1.1 g, 5.3 mmol) was dissolved in THF (5 mL) and was added into LDA (11 mmol) at −78° C. and stirred for 5 minutes. Benzyl chloroformate (1.6 ml, 11 mmol) was added at −78° C. and the reaction warmed to ambient temperature. The solution was poured into ice and diluted with EtOAc (100 mL). The organic layer washed with brine, dried with Na2SO4, filtered and concentrated. The residue was purified by column chromatography (50% EtOAc in hexane) to afford the product (1 g, 55% yield) as brown oil.

reactant | 1-(4-fluorophenyl)azepan-2-one | 5.3 mmol, 1.1 g | FC1=CC=C(C=C1)N1C(CCCCC1)=O | C12H14FNO
reactant | LDA | 11 mmol | [Li+].CC(C)[N-]C(C)C
reactant | Benzyl chloroformate | 11 mmol, 1.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | benzyl 1-(4-fluorophenyl)-2-oxoazepane-3-carboxylate | 1 g, 55% yield | FC1=CC=C(C=C1)N1C(C(CCCC1)C(=O)OCC1=CC=CC=C1)=O | C20H20FNO3
